US04288349
3.3-Dimethylbicyclo-[2.2.1]-heptane-2-carboxylic acid, further to be called camphenic acid, has been described in Bull. Soc. Chim. France 1972 (no. 12) pages 4770-4777, as an intermediate in the synthesis of the corresponding alcohol. Further the synthesis of this compound has been described in Monatshefte fur Chemie 107, page 945 (1976), wherein is stated that it is an important starting material for the preparation of e.g. bicyclic fragrances. In Nippon Kagaku Zasshi 85, pages 593-597 (1964) it is stated that e.g. camphenic acid can be obtained by oxidation of camphene by peracids; see Chem. Abstr. 62, 11858c (1965).

reactant | 3.3-Dimethylbicyclo-[2.2.1]-heptane-2-carboxylic acid | CC1(C(C2CCC1C2)C(=O)O)C | C10H16O2
reactant | camphenic acid | C12(C(C)(C)C(=C)C(CC1)C2)C(=O)O | C11H16O2
product | camphene | C12C(C)(C)C(=C)C(CC1)C2 | C10H16
